US07727287B2
Stage 1: Synthesis of 3,3′-(disulfanediyldiethane-2,1-diyl)bis(1,2-dimethyl-1H-benzimidazol-3-ium) dibromide
2.4 g of 1,2-dimethylbenzimidazole, 2.1 g of bis(2-bromoethyl) disulfide and 6 ml of propionitrile were stirred at 100 C in a sealed 20 ml reactor for 8 h. After cooling, filtration, washing with 3 times 10 ml and drying under vacuum, 2.2 g of beige solid were recovered. The analyses showed that the product was in conformity with the expected structure.

reactant | 1,2-dimethylbenzimidazole | 2.4 g | CN1C(=NC2=C1C=CC=C2)C | C9H10N2
reactant | bis(2-bromoethyl) disulfide | 2.1 g | BrCCSSCCBr | C4H8Br2S2
reactant | propionitrile | 6 ml | C(CC)#N | C3H5N
product | 3,3′-(disulfanediyldiethane-2,1-diyl)bis(1,2-dimethyl-1H-benzimidazol-3-ium) dibromide | [Br-].[Br-].S(SCC[N+]1=C(N(C2=C1C=CC=C2)C)C)CC[N+]2=C(N(C1=C2C=CC=C1)C)C | InChI=1S/C22H28N4S2.2BrH/c1-17-23(3)19-9-5-7-11-21(19)25(17)13-15-27-28-16-14-26-18(2)24(4)20-10-6-8-12-22(20)26;;/h5-12H,13-16H2,1-4H3;2*1H/q+2;;/p-2
